US08242133B2
A mixture of 0.66 g of 2-chloro-5-trifluoromethyl isonicotinic acid and 4 ml of thionyl chloride was heated to reflux for 2.5 hours. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure to give 2-chloro-5-trifluoromethyl isonicotinic acid chloride. A mixture of the resultant 2-chloro-5-trifluoromethyl isonicotinic acid chloride and 4 ml of DMF was added dropwise to a mixture of 0.48 g of 2-amino-4-tert-butylphenol, 0.59 g of triethylamine and 4 ml of DMF while ice-cooling. The reaction mixture was stirred at room temperature for one hour, and stirred while heating at 50° C. for one hour. The mixture was cooled to room temperature, and water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.75 g of N-(5-tert-butyl-2-hydroxyphenyl)-2-chloro-5-trifluoromethylisonicotinamide.

reactant | 2-chloro-5-trifluoromethyl isonicotinic acid chloride | ClC=1C=C(C(=O)Cl)C(=CN1)C(F)(F)F | C7H2Cl2F3NO
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | 2-amino-4-tert-butylphenol | 0.48 g | NC1=C(C=CC(=C1)C(C)(C)C)O | C10H15NO
reactant | triethylamine | 0.59 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(5-tert-butyl-2-hydroxyphenyl)-2-chloro-5-trifluoromethylisonicotinamide | 0.75 g | C(C)(C)(C)C=1C=CC(=C(C1)NC(C1=CC(=NC=C1C(F)(F)F)Cl)=O)O | C17H16ClF3N2O2
